US07521461B2
c) 2-[(4-{2-[Benzyl(hexyl)amino]-2-oxoethyl}-2-methoxyphenoxy)methyl]benzoic acid
Methyl 2-[(4-{2-[benzyl(hexyl)amino]-2-oxoethyl}-2-methoxyphenoxy)methyl]benzoate (98 mg, 0.195 mmol) was dissolved in THF (2 ml). Lithium hydroxide (9.3 mg, 0.389 mmol) solved in water (1 ml) was added. The mixture was put in a microwave oven (Smith Synthesizer) at 150° C. for 7 minutes. It was then acidified with 1% hydrochloric acid, pH˜3, and extracted with ethyl acetate. The organic extract was washed with brine and dried (magnesium sulphate) and evaporated. Chromatography of the residue on a column (ISOLUTE®) SI, 2 g/6 ml) using DCM and then MeOH/DCM (0.5:99.5, then 1:99) as eluant gave 43 mg the desired product, yield 45%.

reactant | Methyl 2-[(4-{2-[benzyl(hexyl)amino]-2-oxoethyl}-2-methoxyphenoxy)methyl]benzoate | 0.195 mmol, 98 mg | C(C1=CC=CC=C1)N(C(CC1=CC(=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1)OC)=O)CCCCCC | C31H37NO5
reactant | Lithium hydroxide | 0.389 mmol, 9.3 mg | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 2-[(4-{2-[Benzyl(hexyl)amino]-2-oxoethyl}-2-methoxyphenoxy)methyl]benzoic acid | 43 mg, yield 45% | C(C1=CC=CC=C1)N(C(CC1=CC(=C(OCC2=C(C(=O)O)C=CC=C2)C=C1)OC)=O)CCCCCC | C30H35NO5
